US08609656B2
1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-{4-[6-(di-methanesulfonylamino)-purin-9-yl]phenyl}urea (Table 1, Compound No. 110)
The title compound can be synthesized from 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride and methanesulfonyl chloride by using the same method as in Example 107.

reactant | 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride | Cl.NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-{4-[6-(di-methanesulfonylamino)-purin-9-yl]phenyl}urea | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)N(S(=O)(=O)C)S(=O)(=O)C)C(F)(F)F | C21H17ClF3N7O5S2
